US08604034B2
To a solution of methyl 5-bromo-1-[2-(4-methoxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate (250 mg, 0.71 mmol) in 1,4-dioxane (50 mL) was added ethane-1,2-diamine (1.0 mL, 15 mmol). The solution was heated at reflux one week. During that time a batch of ethane-1,2-diamine (1.5 mL, 22 mmol) was added. The mixture was concentrated in vacuo to give a oil that was partitioned between water (30 mL) and CH2Cl2 (30 mL). The aqueous layer was further extracted with CH2Cl2 (2×30 mL). The organic layers were dried (MgSO4), filtered and concentrated in vacuo to give a oil that was purified by flash chromatography (Biotage SP4, 12 g cartridge, gradient 0-10% methanol in CH2Cl2) to give 8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a pale yellow solid (135 mg, yield 52%). ESI-MI m/z calculated [M+H]+ 364.0.

reactant | methyl 5-bromo-1-[2-(4-methoxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 0.71 mmol, 250 mg | BrC1=CC=C(N1CC(=O)C1=CC=C(C=C1)OC)C(=O)OC | C15H14BrNO4
reactant | ethane-1,2-diamine | 15 mmol, 1.0 mL | C(CN)N | C2H8N2
reactant | ethane-1,2-diamine | 22 mmol, 1.5 mL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 135 mg, yield 52% | BrC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)OC | C16H16BrN3O2
